US07863291B2
To a solution of 1,1′-thiocarbonyldipyridin-2(1H)-one (1.35 g, 5.8 mmol) in dichloromethane (19 mL) at ambient temperature was added 6,8-dimethylisoquinolin-3-amine (1 g, 5.8 mmol). The reaction mixture was placed into a preheated oil-bath and stirred at 40° C. for 18 h, then cooled, concentrated, and the crude material was purified by silica gel chromatography (10-35% ethyl acetate in hexanes) to afford 3-isothiocyanato-6,8-dimethylisoquinoline (93.7 mg, 0.437 mmol, 8%) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 9.20 (s, 1H), 7.36-7.44 (m, 2H), 7.23 (s, 1H), 2.75 (s, 3H), 2.51 (s, 3H). MS (LC/MS) R.T.=2.03; [M+H]+=215.1.

reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 5.8 mmol, 1.35 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | 6,8-dimethylisoquinolin-3-amine | 5.8 mmol, 1 g | CC=1C=C2C=C(N=CC2=C(C1)C)N | C11H12N2
solvent | dichloromethane | 19 mL | ClCCl | CH2Cl2
product | 3-isothiocyanato-6,8-dimethylisoquinoline | 0.437 mmol, 93.7 mg, 8% | N(=C=S)C=1N=CC2=C(C=C(C=C2C1)C)C | C12H10N2S
